Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]([O:3][C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],5.01750135934
[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]#[C:5][H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.18253654583
[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:13]([C:10]([O:9][C:6]([C:4]([H:5])[H:15])([H:7])[H:8])([H:11])[H:12])[H:14],0.92869636275
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],1.7895319138900003
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],6.5557777551
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])=[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-1.40818110311
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C@@:11]1([H:12])[C:13][O:14]1>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]=[O:14],-2.55511097349
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],-0.49856906459
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]1([H:13])[H:14]>>[H:1][C:3][C:8]([H:9])([H:10])[C:11][C:12]([C:2][C:4]([H:5])([H:6])[H:7])([H:13])[H:14],8.271624001080001
[C:1][C:2]1=[C:3]([O:4][H:5])[O:6][C:7]1([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],0.2882753099800001
[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-0.86717555031
[H:9].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9],-5.5530745267
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],4.99527657788
[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],0.436454595511
[O:1]=[C:2]=[C:10]([C:7]([C:4]([O:3])([H:5])[H:6])([H:8])[H:9])[H:11]>>[O:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1[H:11],-1.90534670126
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:8]([H:9])=[C:10][H:11].[C:6]([H:7])([H:12])[H:13],4.44774035301
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:4][O:5][H:6],3.76491901414
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-6.74205631122
[H:1][C:2]=[C:3]([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][C:12]([H:13])([H:14])[H:15],1.7673719312799998
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[O:11][H:12],2.76631811398
[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12],-0.397129725719
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[C:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11],-0.999842543459
[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-7.48653531666
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6],6.73843755707
[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[O:7][H:8]>>[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[O:7][H:8],1.3843848286899998
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:4]([H:5])[C:10]([H:11])([H:12])[H:13].[H:3][C:8](=[C:6][H:7])[H:9],5.19170701513
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11])[C:3]1,3.63205104119
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-5.84458303826
[H:5].[O:1]=[C:2]([H:3])[C:4][O:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],-4.72056889038
